Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12]>>[C:3]([H:4])([H:5])=[C:6]=[C:7]([H:8])[O:9][C:10]([H:11])[H:12].[H:1][O:2],2.20625207844
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]=[C:11]([H:12])[H:13].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]=[C:11]([H:12])[H:13],-5.333802220919999
[C:1].[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-5.42655443653
[H:1][C:2]#[C:3][O:5][C:6][C:7]([H:8])([H:9])[H:10].[H:4]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[H:10],-2.43746448988
[C:1]#[C:2][C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:9]([H:10])([H:11])[H:12].[H:8],3.5713412309599994
[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:6]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-3.70742688716
[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-4.78980407328
[C:1]#[C:2].[C:3](#[C:4][H:5])[O:6][O:7][H:8]>>[C:1]#[C:2][C:3](=[C:4][H:5])[O:6][O:7][H:8],-3.38745336731
[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:5].[O:1]=[C:2]=[C:3]([H:4])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],2.42811680502
[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([O:4][H:5])=[C:6][H:7]>>[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-6.30321103321
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]=[C:9]([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:3][C:7](=[C:4]([H:5])[H:6])[H:8],1.85109272936
[C:1]#[C:2][C:3][O:4][H:5].[C:6]([H:7])([H:8])[O:9][H:10]>>[C:1]=[C:2]([C:3][O:4][H:5])[C:6]([H:7])([H:8])[O:9][H:10],-1.71581223869
[C:6]([H:7])([H:8])=[C:9]=[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-0.987739429329
[C:11]([H:12])[H:13].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])[O:9][H:10]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13],-4.545218809880001
[H:3].[O:1]=[C:2]=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-1.6067635688100002
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][O:2][C:3]([H:4])[H:5],3.63729794675
[H:1][C:2]#[C:3][H:4].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-1.2321431434
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])[H:12],4.04814026954
[H:10].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][O:9]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][O:9][H:10],-3.78407014256
[C:1]#[C:2][O:3][H:4].[C:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]([O:3][H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-2.85443654762
[C:8]([H:9])([H:10])[H:11].[H:1][C:2][C:3]([H:4])([H:5])[C:6]=[O:7]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[H:11],-0.717635365909
[H:1][O:2][C@@:3]1([H:4])[C:5]([O:6][C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13],-1.118244396
[O:1][C:2][C:3].[O:4][C:5]#[C:6][H:7]>>[O:1]=[C:2]=[C:3][O:4][C:5]#[C:6][H:7],-1.8668891326900003
[H:1][O:2]/[C:3]=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11],-4.811293914
[C:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][H:7])[C:8]=[O:9].[H:10]>>[C:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8](=[O:9])[H:10],-3.96952122856
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][C:4]([H:5])[H:6].[O:7][O:8][C:9]([H:10])([H:11])[H:12],2.18353018912
[H:1][C:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:3]([H:4])#[C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][C:2],4.46486722541
[H:1][O:2][C:3][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-3.714238787
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:17].[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],4.532838633530001
